US03941803
In the manner given in Example 33, 5-chloro-2',6'-difluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone in ethanol is heated with hydrazine to give 8-chloro-6-(2,6-difluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 5-chloro-2',6'-difluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H14ClF2N3O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-6-(2,6-difluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=C(C=CC=C3F)F)C1 | C17H10ClF2N3
